US07504429B2
methyl 5-(4-fluorophenyl)-4-ethyl-2-formyl-1H-pyrrole-3-carboxylate
Methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate was obtained following the procedures described in Example 3. To a solution of methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate (0.123 g, 0.40 mmol) in dimethoxyethane (4.0 mL) was added K3PO4 (0.426 g, 2.00 mmol), Pd(PPh3)4 (0.0463 g, 0.04 mmol), and 4-fluorophenylboronic acid (0.0842 g, 0.60 mmol). The reaction was deoxygenated by bubbling argon through the solution prior to being heated to 85° C. and refluxed for 16 h under argon. After cooling to ambient temperature, the reaction was filtrated through a pad of silica gel and concentration. The resultant residue was dissolved in acetonitrile and purified by reverse phase HPLC. Proton NMR for the product was consistent with the title compound. 1H NMR (500 MHz, CDCl3) δ 10.15 (s, 1H); 7.43 (dd, J=3.4, 5.2 Hz, 2H); 7.18 (app t, 8.6 Hz, 2H); 3.94 (s, 3H); 2.80 (q, J=7.4 Hz, 2H); 1.22 (t, J=7.4 Hz, 3H). HRMS (ES) exact mass calculated C15H15FNO3 (M+H): 276.1312. Found 276.1264

reactant | methyl 4-ethyl-2-formyl-5-iodo-1H-pyrrole-3-carboxylate | 0.40 mmol, 0.123 g | C(C)C=1C(=C(NC1I)C=O)C(=O)OC | C9H10INO3
reactant | K3PO4 | 2.00 mmol, 0.426 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-fluorophenylboronic acid | 0.60 mmol, 0.0842 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | dimethoxyethane | 4.0 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 0.04 mmol, 0.0463 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-(4-fluorophenyl)-4-ethyl-2-formyl-1H-pyrrole-3-carboxylate | FC1=CC=C(C=C1)C1=C(C(=C(N1)C=O)C(=O)OC)CC | C15H14FNO3
